US08492378B2
ethyl 3-[4-(methylthio)phenyl]furo[2,3-b]pyridine-5-carboxylate
In the same manner as in Reference Example 19 and using ethyl 3-bromofuro[2,3-b]pyridine-5-carboxylate instead of methyl 3-iodoimidazo[1,2-a]pyridine-6-carboxylate and [4-(methylthio)phenyl]boronic acid instead of (4-methoxyphenyl)boronic acid, the title compound (yield 95%) was obtained as colorless crystals.

reactant | ethyl 3-bromofuro[2,3-b]pyridine-5-carboxylate | BrC1=COC2=NC=C(C=C21)C(=O)OCC | C10H8BrNO3
reactant | [4-(methylthio)phenyl]boronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | ethyl 3-[4-(methylthio)phenyl]furo[2,3-b]pyridine-5-carboxylate | yield 95% | CSC1=CC=C(C=C1)C1=COC2=NC=C(C=C21)C(=O)OCC | C17H15NO3S
